US06037342
5,7-Dimethyl-2-(4-methyl-1-homopiperazinyl)benzoxazole
5,7-Dimethyl-2-mercaptobenzoxazole (220 mg) was dissolved in chloroform (20 ml), N-methylhomopiperazine (0.76 ml) was added dropwise to the solution and then the mixture was stirred with heating for 2 days. After evaporation of the solvent, the thus obtained mixture was purified by a silica gel column chromatography (methylene chloride:methanol=20:1) to obtain the title compound 5,7-dimethyl-2-(4-methyl-1-homopiperazinyl)benzoxazole (110 mg).

reactant | 5,7-Dimethyl-2-mercaptobenzoxazole | 220 mg | CC=1C=C(C2=C(N=C(O2)S)C1)C | C9H9NOS
reactant | N-methylhomopiperazine | 0.76 ml | CN1CCNCCC1 | C6H14N2
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 5,7-dimethyl-2-(4-methyl-1-homopiperazinyl)benzoxazole | 110 mg | CC=1C=C(C2=C(N=C(O2)N2CCN(CCC2)C)C1)C | C15H21N3O
